US04833164
2-(1-Hydroxycyclohexyl)-1-methoxymethoxy-naphthalene
A solution of 1-methoxymethoxy-naphthalene (3.76 g, 0.020 mole) in dry ether (40 mL) was treated with n-butyllithium (1.6M in hexane; 25.0 mL, 0.040 mole) at room temperature over a period of 15 minutes. After stirring for an additional 1.5 hours, a solution of cyclohexanone (4.90 g, 0.050 mole) in ether (15 mL) was added and the resulting mixture was stirred at room temperature for 2 hours. It was then quenched with saturated aqueous ammonium chloride and the crude product was isolated by extraction with ether. Chromatography with 9:1 hexane/ethyl acetate provided the title compound as a colorless oil (3.30 g, 58%).

reactant | 1-methoxymethoxy-naphthalene | 0.020 mole, 3.76 g | COCOC1=CC=CC2=CC=CC=C12 | C12H12O2
reactant | n-butyllithium | 0.040 mole, 1.6M, 25.0 mL | C(CCC)[Li]
reactant | cyclohexanone | 0.050 mole, 4.90 g | C1(CCCCC1)=O | C6H10O
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | ether | 40 mL | CCOCC | C4H10O
solvent | ether | 15 mL | CCOCC | C4H10O
product | 2-(1-Hydroxycyclohexyl)-1-methoxymethoxy-naphthalene | 3.30 g, 58% | OC1(CCCCC1)C1=C(C2=CC=CC=C2C=C1)OCOC | C18H22O3
